datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][CH:11]=[N:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([N:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2C=C(C)C=C3)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[C-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C[C:10]([C:20](C)(C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1 10=20
"C/[CH:10]=[CH:11]/[N:12]1CCOCC1.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>C[CH:10]([CH:11]=[N+:12]1CCOCC1)[CH:20]1[C:21](C#N)=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C.[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C2C3C54>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C.[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Os-2:11]2345(C#[O+])(C#[O+])[H:10].CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23]>>CC12C3(C)C4(C)C5(C)C1(C)[Os-:11]2345(C#[O+])C#[O+].CC[O:33][C:22](=[CH:21][CH:20](C)[H:10])[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)C[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])C1.F[S:32](/[CH:21]=[CH:20]/C1=CC=CC=C1)(=[O:33])=[O:34]>>CC1(C)C[C:71](=[O:72])[C:10]([I+:11]C2=CC=CC=C2)([CH:20](C2=CC=CC=C2)[CH-:21][S:32](F)(=[O:33])=[O:34])[C:91](=[O:92])C1 10,11=10,20;20,21=21"
"C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23].FC(F)(F)C[NH2:10]>>C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([NH2+:10]CC(F)(F)F)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10=20;20,21=21,22;22,23=23"
"ClC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>N#C[C:21]1=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]1[CH:10](Cl)[S:61](C1=CC=C(Cl)C=C1)(=[O:62])=[O:72] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[NH:10]CCO1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCOCC2)[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
"C[N+:21](C1=CC=CC=C1)=[CH2:20].[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:82]=[CH:83]1>>C[N:21](C1=CC=CC=C1)[CH2:20][CH:10]([N+:11](=[O:12])[O-:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:82]=[CH:83]1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCC1)=[O:62]>>CC[O:72][C:61]([C:10]1([CH:20]([C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)CCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[C:10](=[C:11]1/[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)[C:71]#[N:72].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10](C)([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]#[N:72])[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"Br[Zn-:11](Br)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2.C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>Br[Zn:11]Br.C[O:33][C:22](=[CH:21][CH2:20][CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:20]1=[CH:21][C:22](=[O:23])CCC1.[NH2:10][OH:61]>>C[C:20]1([NH2+:10][OH:61])CCC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].FC(F)(F)[C:62]1=[C:61]([O-:10])[CH:72]=[CH:73][CH:64]=[CH:63]1>>FC(F)(F)[C:62]1=[C:61]([O:10][CH2:20][C:21]2=[C:22]([O-:23])[O:33]CC2)[CH:72]=[CH:73][CH:64]=[CH:63]1 10=20;20,21=21,22;22,23=23"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.C[S+:61](C)[O-:10]>>C[S+:61](C)[O:10][CH:20]1CCC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
